US06258953B1
A mixture of (4.0 g, 25.9 mmol) of phenylacetyl chloride, 3.15 mL (25.9 mmol) of 4-chlorobenzylamine and 5.1 mL of triethylamine in 120 mL of methylene chloride was prepared at 0° C. and then heated to reflux under a nitrogen atmosphere for 18 hours. The solvent was evaporated and the residue was treated with 2 mL of 4-chlorobenzylamine and 3 mL of triethylamine and reheated to reflux overnight. After cooling, the mixture was suspended in 100 mL of methylene chloride, washed with 0.5 N hydrochloric acid, 0.5 N sodium hydroxide and saturated aqueous sodium chloride, followed by drying with magnesium sulfate (MgSO4). The solvent was removed in vacuo to give a white solid which was recrystallized from ethyl acetate:hexane to provide N-(4-chlorobenzyl)-phenylacetamide as a white crystalline solid, 4.15 g (62%).

reactant | phenylacetyl chloride | 25.9 mmol, 4.0 g | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | 4-chlorobenzylamine | 25.9 mmol, 3.15 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | triethylamine | 5.1 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 120 mL | C(Cl)Cl | CH2Cl2
product | N-(4-chlorobenzyl)-phenylacetamide | ClC1=CC=C(CNC(CC2=CC=CC=C2)=O)C=C1 | C15H14ClNO
